US08492378B2
2-ethyl-5-[3-[4-(methylthio)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole
In the same manner as in Example 239 and using 3-[4-(methylthio)phenyl]-1-benzofuran-5-carbohydrazide instead of 2-[[4-(methylthio)phenyl]amino]isonicotinohydrazide and using triethyl orthopropionate instead of triethyl orthoacetate, the title compound (yield 9%) was obtained as colorless crystals.

reactant | 3-[4-(methylthio)phenyl]-1-benzofuran-5-carbohydrazide | CSC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C(=O)NN | C16H14N2O2S
reactant | triethyl orthopropionate | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 2-ethyl-5-[3-[4-(methylthio)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | yield 9% | C(C)C=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)SC)C1 | C19H16N2O2S
